US04426522
Into a 100 ml round bottomed flask equipped with a reflux condenser sealed with a calcium chloride tube, were placed 100 ml of dry benzene, 1 g of 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione and 2 ml of p-chlorobenzoylchloride. The mixture was refluxed for 18 hours, the solution obtained was then cooled and the precipitated crystals were filtered off by suction to yield 1 g (60%) of 1-(4'-chlorobenzoyl)-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione; m.p. 205°.

reactant | 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 1 g | ClC1=CC=C(CN2NCC(NC2=O)=O)C=C1 | C10H10ClN3O2
reactant | p-chlorobenzoylchloride | 2 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(4'-chlorobenzoyl)-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 1 g, 60% | ClC1=CC=C(C(=O)N2N(C(NC(C2)=O)=O)CC2=CC=C(C=C2)Cl)C=C1 | C17H13Cl2N3O3
